US09284272B2
A solution of 1-(5-methoxy-2-nitro-4-(3-(pyrrolidin-1-yl)propoxy)phenyl)cyclobutanecarbonitrile (0.063 g, 1.742 mmol), from Step 4, in acetic acid (10 mL), was treated with 10% Pd/C (0.56 g, 0.523 mmol). The mixture was stirred under an atmosphere of hydrogen at 80° C. for 5 hours. The catalyst was filtered off and washed with EtOH. The filtrate was concentrated and resulting crude product was purification by flash chromatography (silica gel, 15-25% 3N methanolic ammonia/dichloromethane) to afford 0.161 g (28%) of 5′-methoxy-6′-(3-(pyrrolidin-1-yl)propoxy)spiro[cyclobutane-1,3′-indol]-2′-amine 1H NMR (400 MHz, METHANOL-D4) δ 7.28 (s, 1H), 6.71 (s, 1H), 4.11 (t, J=5.7 Hz, 2H), 3.88 (s, 3H), 3.27-3.19 (m, 6H), 2.63 (t, J=9.9 Hz, 2H), 2.52-2.42 (m, 1H), 2.38 (dd, J=13.0, 10.4 Hz, 2H), 2.31-2.22 (m, 1H), 2.17 (dt, J=12.8, 6.2 Hz, 2H), 2.04 (t, J=6.8 Hz, 6H). MS (ESI) m/z 330 (M+H)+.

reactant | 1-(5-methoxy-2-nitro-4-(3-(pyrrolidin-1-yl)propoxy)phenyl)cyclobutanecarbonitrile | 1.742 mmol, 0.063 g | COC=1C(=CC(=C(C1)C1(CCC1)C#N)[N+](=O)[O-])OCCCN1CCCC1 | C19H25N3O4
solvent | acetic acid | 10 mL | C(C)(=O)O | C2H4O2
catalyst | Pd/C | 0.523 mmol, 0.56 g | [Pd] | Pd
product | 5′-methoxy-6′-(3-(pyrrolidin-1-yl)propoxy)spiro[cyclobutane-1,3′-indol]-2′-amine | 0.161 g, 28% | COC=1C=C2C3(C(=NC2=CC1OCCCN1CCCC1)N)CCC3 | C19H27N3O2
